US08183239B2
2-(1-{4-[3-(3,5-Dimethyl-isoxazol-4-yl)-ureido]-2-fluoro-phenyl}-piperidin-4-yl)-N,N-diethyl-2-phenyl-acetamide
A mixture of 2-[1-(4-amino-2-fluoro-phenyl)-piperidin-4-yl]-N,N-diethyl-2-phenyl-acetamide (0.30 mmol) and 4-isocyanato-3,5-dimethyl-isoxazole (1.0 mmol) in DCE (10 mL) was stirred at rt for 16 h. The precipitate that had formed was collected by filtration and dried under vacuum to give the title compound (78 mg, 50%). MS (ESI): mass calcd. for C29H36FN5O3, 521.28; m/z found, 522.4 [M+H]+. 1H NMR (CDCl3): 7.95-7.75 (br s, 1H), 7.40-7.20 (m, 5H), 7.30-6.90 (br s, 1H), 6.80-6.70 (m, 2H), 3.60-3.10 (m, 7H), 2.45-2.35 (m, 2H), 2.28 (s, 3H), 2.20-2.10 (m, 4H), 2.00-1.90 (m, 1H), 1.52-1.40 (m, 1H), 1.35-1.20 (m, 2H), 1.18-1.03 (m, 6H).

reactant | 2-[1-(4-amino-2-fluoro-phenyl)-piperidin-4-yl]-N,N-diethyl-2-phenyl-acetamide | 0.30 mmol | NC1=CC(=C(C=C1)N1CCC(CC1)C(C(=O)N(CC)CC)C1=CC=CC=C1)F | C23H30FN3O
reactant | 4-isocyanato-3,5-dimethyl-isoxazole | 1.0 mmol | N(=C=O)C=1C(=NOC1C)C | C6H6N2O2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | 2-(1-{4-[3-(3,5-Dimethyl-isoxazol-4-yl)-ureido]-2-fluoro-phenyl}-piperidin-4-yl)-N,N-diethyl-2-phenyl-acetamide | 78 mg, 50% | CC1=NOC(=C1NC(NC1=CC(=C(C=C1)N1CCC(CC1)C(C(=O)N(CC)CC)C1=CC=CC=C1)F)=O)C | C29H36FN5O3
